US04521423
Preparation of 7,8,9,10-Tetrahydro-N,N-dipropylbenzo[h]quinolin-9-amine (I: R1 and R2 =CH3CH2CH2)
A mixture of N7,N7 -dipropyl-5,6,7,8-tetrahydro-1,7-naphthalenediamine (1.95 g, 0.008 mol), described by F.L.-E. Arvidsson et al., World Patent Application 81/03491, published Dec. 10, 1981, glycerol (4.7 mL, 0.064 mol) and iodine (0.05 g) was placed in a 250 mL round bottomed flask. The mixture was stirred at 20°-22° C. and concentrated sulfuric acid (6.5 mL, 0.120 mol) was added dropwise. The reaction soon commenced and the temperature rose to 70° C. and stayed at that point until the addition was complete. The flask was heated to 140° C. in an oil bath for 30 minutes. The reaction proceeded with evolution of SO2 and some iodine vapor. Thereafter, the reaction mixture was cooled to 20°-22° C. and then rendered alkaline by the dropwise addition of concentrated NH4OH. The mixture was extracted with chloroform. Insoluble polymeric material in the extract was removed by filtering the extract through a bed of diatomaceous earth. The filtrate was evaporated to dryness. The residue was taken up in diethyl ether. The solution was passed through a column of magnesium silicate, and the column washed with diethyl ether. The combined eluate was evaporated to give the title compound as a colorless oil. Treatment of the oil with a solution of HCl in diethyl ether, followed by recrystallization of the resulting solid from methanol gave the trihydrochloride salt of the title compound having mp 249°-255° C.; Anal. Calcd for C19H26N2.3HCl; C, 58,40% H, 7.48% N, 7.16%; Found: C, 58.62%, H, 7.22% N, 7.22%; the NMR (CDCl3) of the free base exhibited δ1.04 (t, 3H), 1.06 (t, 3H), 2.05 (m, 6H), 3.25 (m, 8H), 4.22 and 4.40 (m, 1H), 7.65 (d, J=8 Hz, 1H), 7.87 (2d, J=8 Hz, 1H), 7.95 (d, J= 8 Hz, 1H), 8.88 (2d, J=8 Hz, J=1.5 Hz, 1H), 9.19 (2d, J=8 Hz, J=1.5 Hz, 1H), 11.0 (broad, 2H).

reactant | N7,N7 -dipropyl-5,6,7,8-tetrahydro-1,7-naphthalenediamine | 0.008 mol, 1.95 g | C(CC)N(C1CCC=2C=CC=C(C2C1)N)CCC | C16H26N2
reactant | glycerol | 0.064 mol, 4.7 mL | OCC(O)CO | C3H8O3
reactant | iodine | 0.05 g | II | I2
reactant | sulfuric acid | 0.120 mol, 6.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | NH4OH | [NH4+].[OH-]
product | 7,8,9,10-Tetrahydro-N,N-dipropylbenzo[h]quinolin-9-amine | C(CC)N(C1CC=2C(=CC=C3C=CC=NC23)CC1)CCC | C19H26N2
